US09370522B2
LiAlH4 (10 mg, 0.26 mmol, 2.00 equiv) was added to a solution of methyl 3-(3-methoxyphenyl)-2-phenylquinoxaline-6-carboxylate (50 mg, 0.14 mmol, 1.00 equiv) in THF (30 mL) at 0° C. The resulting solution was allowed to react, with stifling, for 2 hrs at room temperature. The reaction was quenched by the addition of 10 mL of ethyl acetate. The solids were filtered out, and the filtrate was concentrated under vacuum, affording 30 mg (65%) of (3-(3-methoxyphenyl)-2-phenylquinoxalin-6-yl)methanol as a white solid.

reactant | LiAlH4 | 0.26 mmol, 10 mg, 2.00 equiv | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | methyl 3-(3-methoxyphenyl)-2-phenylquinoxaline-6-carboxylate | 0.14 mmol, 50 mg, 1.00 equiv | COC=1C=C(C=CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C23H18N2O3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (3-(3-methoxyphenyl)-2-phenylquinoxalin-6-yl)methanol | 30 mg, 65% | COC=1C=C(C=CC1)C=1C(=NC2=CC=C(C=C2N1)CO)C1=CC=CC=C1 | C22H18N2O2
